Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pancreatic cancer
 
Major Surgical or Invasive Procedure:
___: 
1. Extended Radical pancreaticoduodenectomy for locally-advanced
pancreatic cancer s/p preoperative chemoradiation, -22 modifier
2. Resection of base of transverse mesocolon and extended
vascular dissection of the small bowel mesentery for presumed T4
cancer

 
History of Present Illness:
Ms. ___ is a ___ woman who has a history of acute
pancreatitis ___ ___.  An MRCP at that time showed
subcentimeter cystic lesions consistent with intraductal
papillary mucinous neoplasia.  She recovered and went on to
undergo a six-month surveillance CT scan, which showed a double
duct sign and a 3 x 2 cm pancreatic mass.  Abdominal pain
followed as did the CT scan, and she was admitted with worsening
pain and fatigue and also noticed an unintentional 35-pound
weight loss over the past six months.  She went on to develop
obstructive jaundice, was seen here at ___,
biliary stenting was achieved and biopsies on brushings were
positive for adenocarcinoma, consistent with a primary 
pancreatic
head adenocarcinoma.

She went on to develop a CT angiogram need, which was performed
on ___ revealing borderline resectable with a 
180-degree
involvement of the pancreatic head adenocarcinoma, unfortunately
at the posterior aspects of both the superior mesenteric artery
and superior mesenteric vein extending medially to primary
branches.

She underwent neoadjuvant chemoradiation therapy, which she has 
seemingly
responded to.  She has been under the tight watchful eye of Dr. 
___ who has been shooting her through her maximal 
chemotherapy regimen and her CT
imaging revealed some tumor response, but there is an area 
around
the root of mesentery and the superior mesenteric artery that
remains equivocal and perhaps could be the final red-light for
her to have resection. She now presents for her scheduled 
pancreaticoduodenectomy. 
 
Past Medical History:
Pancreatitis ___
HTN
hyperthyroidism, s/p treatment, now euthyroid

 
Social History:
___
Family History:
Her mother had colon cancer at ___ but she declined therapy. 
Her father was killed by Pol Pot at a young age. 
 
Physical Exam:
Prior to discharge:
VS: 98.8, 87, 107/57, 18, 99% RA
GEN: NAD, pleasant
CV: RRR, no m/r/g
Chest: left subclavian Port-a-Cath activated with occlusive 
dressing and c/d/i.
PULM: CTAB
ABD: Bilateral subcostal incision open to air ___ strips. 
Two small area open and packed with moist-to-dry gauze and 
covered with DSD. Umbilical laparoscopic incision covered with 
DSD. RUQ with ___ drain to bulb suction and with small amount of 
bilious output, site with drain sponge and c/d/i. 
Extr: Warm

 
Pertinent Results:
Imaging: 
___: CT A/P
1.  Status post Whipple procedure with two gas-containing fluid 
collections ___ the liver concerning for hepatic abscesses.  
Please note that Surgicel use can have a similar appearance, 
thus correlation with the operative procedure is necessary. 
2.  Additional loculated fluid collection alongside the main 
portal vein and SMV without internal gas could be a 
postoperative seroma or abscess. 
3.  Other less organized fluid collections ___ the pancreatectomy 
bed and 
anterior abdominal wall may be postsurgical such as seroma, 
although infection is not excluded. 
4.  Mild bilateral hydronephrosis and hydroureter without 
evidence of focal obstruction, likely attributable to fullness 
of the bladder at the time of exam. 

___ Interventional procedure: 
FINDINGS:  
Limited preprocedure CT scan of the upper abdomen demonstrates a 
fluid 
collection ___ the right hepatic lobe containing gas bubbles 
measuring 
approximately 2.6 x 3.4 cm, which was targeted for drainage.  
There is a 
hepaticojejunostomy and evidence of recent Whipple procedure 
with multiple 
surgical staples and sutures ___ place.  There are bilateral 
breast prostheses 
and partially visualized posterior fusion of the lower lumbar 
spine. 
  
IMPRESSION:  
Successful CT-guided placement of an ___ pigtail catheter 
into the 
hepatic collection. Samples was sent for microbiology 
evaluation. 

Micro: 
___ 7:28 pm URINE      Source: ___. 
   URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML.. 
     Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
     Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |          ESCHERICHIA COLI
                             |          |   
AMPICILLIN------------              <=2 S
AMPICILLIN/SULBACTAM--     4 S      <=2 S
CEFAZOLIN-------------   <=4 S      <=4 S
CEFEPIME--------------   <=1 S      <=1 S
CEFTAZIDIME-----------   <=1 S      <=1 S
CEFTRIAXONE-----------   <=1 S      <=1 S
CIPROFLOXACIN---------<=0.25 S   <=0.25 S
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------<=0.25 S   <=0.25 S
NITROFURANTOIN--------    32 S     <=16 S
PIPERACILLIN/TAZO-----   <=4 S      <=4 S
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----   <=1 S      <=1 S

___ 6:09 pm BLOOD CULTURE      Source: Line-port. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Cefepime sensitivity testing performed by ___. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------       R
CEFTAZIDIME-----------    16 R
CEFTRIAXONE-----------  =>___ R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----  =>16 R

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM NEGATIVE ROD(S). 
     
___ 11:12 am BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      ESCHERICHIA COLI. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___
         ___. 

   Aerobic Bottle Gram Stain (Final ___:    GRAM NEGATIVE 
ROD(S). 

___ 2:09 am BLOOD CULTURE      PERIPHERAL. 

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___
         ___. 

   Anaerobic Bottle Gram Stain (Final ___:    GRAM 
NEGATIVE ROD(S). 

___ 5:10 pm ABSCESS
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND ___ SHORT 
CHAINS. 

   WOUND CULTURE (Final ___: 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED, THEY ARE NOT PRESENT 
___ this
         culture. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


___ 5:10 pm ABSCESS

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND ___ SHORT 
CHAINS. 

   WOUND CULTURE (Final ___: 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED, THEY ARE NOT PRESENT 
___ this
         culture. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED.

Labs: 

___ 09:20PM BLOOD WBC-3.0* RBC-3.46* Hgb-9.3* Hct-29.0* 
MCV-84 MCH-26.9* MCHC-32.0 RDW-17.3* Plt ___
___ 02:51AM BLOOD WBC-3.3* RBC-2.70* Hgb-7.5* Hct-23.2* 
MCV-86 MCH-27.9 MCHC-32.5 RDW-16.5* Plt ___
___ 01:46PM BLOOD Hct-27.0*
___ 11:00AM BLOOD WBC-6.3# RBC-2.70* Hgb-7.3* Hct-22.0* 
MCV-82 MCH-27.2 MCHC-33.3 RDW-16.9* Plt ___
___ 06:15AM BLOOD WBC-8.1 RBC-2.48* Hgb-6.7* Hct-20.9* 
MCV-84 MCH-27.1 MCHC-32.1 RDW-17.4* Plt ___
___ 06:00AM BLOOD WBC-9.7 RBC-2.96* Hgb-8.1* Hct-24.5* 
MCV-83 MCH-27.3 MCHC-33.0 RDW-17.3* Plt ___
___ 07:39AM BLOOD WBC-11.4* RBC-3.10* Hgb-8.5* Hct-26.8* 
MCV-86 MCH-27.3 MCHC-31.7 RDW-17.4* Plt ___
___ 07:22AM BLOOD WBC-13.3* RBC-3.35* Hgb-8.9* Hct-28.6* 
MCV-85 MCH-26.6* MCHC-31.1 RDW-17.6* Plt ___
___ 02:09AM BLOOD WBC-10.2 RBC-3.42* Hgb-9.3* Hct-29.2* 
MCV-85 MCH-27.0 MCHC-31.7 RDW-17.9* Plt ___
___ 04:40AM BLOOD WBC-5.2 RBC-2.83* Hgb-7.4* Hct-22.9* 
MCV-81* MCH-26.1 MCHC-32.3 RDW-18.9* RDWSD-55.4* Plt ___
___ 06:15AM BLOOD Glucose-144* UreaN-5* Creat-0.3* Na-135 
K-3.6 Cl-105 HCO3-23 AnGap-11
___ 06:52AM BLOOD Glucose-142* UreaN-6 Creat-0.4 Na-133 
K-4.5 Cl-99 HCO3-25 AnGap-14
___ 04:56AM BLOOD Glucose-97 UreaN-6 Creat-0.2* Na-137 
K-3.0* Cl-113* HCO3-16* AnGap-11
___ 07:17AM BLOOD Glucose-153* UreaN-9 Creat-0.5 Na-126* 
K-4.7 Cl-89* HCO3-31 AnGap-11
___ 01:17PM BLOOD Glucose-142* UreaN-8 Creat-0.5 Na-127* 
K-5.0 Cl-91* HCO3-30 AnGap-11
___ 07:39AM BLOOD Glucose-127* UreaN-7 Creat-0.4 Na-131* 
K-4.4 Cl-96 HCO3-30 AnGap-9
___ 07:22AM BLOOD Glucose-117* UreaN-5* Creat-0.5 Na-131* 
K-4.4 Cl-97 HCO3-26 AnGap-12
___ 02:09AM BLOOD Glucose-143* UreaN-6 Creat-0.6 Na-131* 
K-4.1 Cl-96 HCO3-20* AnGap-19
___ 03:30AM BLOOD Glucose-207* UreaN-4* Creat-0.4 Na-131* 
K-3.0* Cl-104 HCO3-22 AnGap-8
___ 04:40AM BLOOD Glucose-126* UreaN-5* Creat-0.4 Na-137 
K-4.7 Cl-102 HCO3-30 AnGap-10
___ 01:17PM BLOOD ALT-27 AST-43* AlkPhos-87 TotBili-0.4
___ 07:39AM BLOOD ALT-27 AST-32 AlkPhos-85 TotBili-0.5
___ 02:09AM BLOOD ALT-36 AST-49* AlkPhos-89 TotBili-0.8
 
Brief Hospital Course:
Ms. ___ was admitted to ___ following a 
pancreaticoduodenectomy procedure on ___. The procedure went 
without complications, although required difficult dissection of 
the vasculature of the small bowel mesentery. Please see 
operative notes for further details. Post-op she had an epidural 
___ place, NGT and foley. ___ the PACU, she was hypotensive and 
received 1 bolus of LR and 500cc of 5% albumin. Her BP responded 
well. Her Hct had transiently dropped post-op, most likely 
dilutional, because came back up to baseline on POD1 morning. 
Her epidural was split on POD2 and her NGT was removed. She was 
advanced to sips the following day and passing flatus. On POD4, 
her epidural was removed and she was transitioned to oral pain 
medications. Her foley was removed and she failed to void and 
her foley was replaced. She had some drainage and fat necrosis 
of the incision site and 8 staples were removed and the area was 
packed with a wet-to-dry dressing. On POD 5 she received 1U PRBC 
for a Hct of 23.3. She was ambulating well with physical 
therapy. Throughout this time, she was complaining of 
significant pain with a great deal of difficulty achieving 
adequate pain control. On POD 5 she was advanced to a regular 
diet. She was complaining of foul smelling urine and a UA, UCx 
was sent, both of which were positive for ecoli and klebsiella. 
She was started on a 5-day course of cipro. Given her increasing 
pain, she was started on an aggressive bowel regimen alone with 
an increase ___ her pain regimen. She was hypernatremic and 
placed on a free water restriction with adequate decrease ___ Na. 
On POD 10, given her slow progress and increasing pain, a CT A/P 
was ordered. She was given PO contrast and IV. When she came 
back from CT, she developed rigors, chills, no fevers, and 
severe nausea. An NGT was placed with minimal output but 
subjective improvement of symptoms.  The following day, her NGT 
was d/c'd and her diet was slowly advanced to a regular diet 
which she tolerated well. Blood cultures were obtained during 
her rigors and chills which grew out e.coli. CT scan showed 2 
intra-hepatic fluid collections and a small extra-hepatic one. 
She was started on zosyn. She went to ___ on ___ for drain 
placement. Bilious fluid came out and a drain was kept ___ place. 
The lateral portion of her wound was also opened for additional 
drainage and packing. ID was consulted given the setting of a 
port as well as the IV nurses notified. ID recommended switching 
to meropenem (started on ___  for a total of 2 weeks after the 
last positive blood culture and a gentamicin lock ___ the port. 
It was decided to keep the port for now given to clear evidence 
of seeding of the actual port. She continued to have pain 
control issues and was started on a 2-day standing course of 
toradol. She was ambulating early and without difficulty. 
Throughout this time, she was tolerating a regular diet without 
issues. 
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 

 
Medications on Admission:
-Lantus Solostar 100 unit/mL (3 mL) subcutaneous insulin pen
5 units SC HS 
-lipase-protease-amylase [Zenpep] Zenpep 20,000-68,000-109,000 
unit capsule,delayed release ___ capsule(s) by mouth two with 
meals and one with snacks  
-omeprazole 20 mg capsule,delayed release 1 (One) capsule(s) by 
mouth twice a day (
-ondansetron HCl 8 mg tablet 1 tablet(s) by mouth every eight 
(8) hours as needed for severe nausea  
-oxycodone 5 mg tablet 1 tablet(s) by mouth every six (6) hours 
as needed for pain from cancer  
-prochlorperazine maleate 10 mg tablet
1 tablet(s) by mouth every six (6) hours as needed for low grade 
nausea  
-promethazine 25 mg tablet 1 tablet(s) by mouth three times a 
day as needed for nausea, headache  
-calcium carbonate 500 mg calcium (1,250 mg) tablet
1 tablet(s) by mouth twice a day (
-loperamide-simethicone [Imodium Multi-Symptom Relief]  Imodium 
Multi-Symptom Relief 2 mg-125 mg tablet 1 tablet(s) by mouth as 
needed
-multivit-min-FA-Ca carb-vit K [One-A-Day Women's 50+] One-A-Day 
Women's 50+ 400 mcg-500 mg calcium-20 mcg tablet
1 tablet(s) by mouth once a day (

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q8H:PRN pain 
please do not exceed more then 3000 mg/day 
2. Bisacodyl 10 mg PR QHS:PRN constipation 
3. Enoxaparin Sodium 40 mg SC DAILY 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 40 mg/0.4 mL 40 mg SC once a day Disp #*30 
Syringe Refills:*0
4. Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0
5. Glargine 5 Units Bedtime
6. Meropenem 500 mg IV Q6H 
Please continue this medication until ___ 
RX *meropenem 500 mg 500 mg IV every six (6) hours Disp #*40 
Vial Refills:*0
7. Metoclopramide 10 mg PO QIDACHS 
RX *metoclopramide HCl 10 mg 1 by mouth QIDACHS Disp #*56 Tablet 
Refills:*0
8. Omeprazole 20 mg PO Q12H 
9. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*150 Tablet Refills:*0
10. Simethicone 40 mg PO QID 
11. Zofran ODT (ondansetron) 4 mg oral Q8H:PRN nausea 
RX *ondansetron [Zofran ODT] 4 mg ___ tablet(s) by mouth every 
eight (8) hours Disp #*60 Tablet Refills:*0
12. Zenpep (lipase-protease-amylase) 20,000-68,000 -109,000 unit 
oral TID W/MEALS 
13. Gentamicin 2.5 mg/mL ___ Sodium Citrate 4% 12.5 mg LOCK PRN 
port use  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
1. Locally advanced pancreatic adenocarcinoma.
2. GNR bacteremia.
3. Urinary tract infection.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted after your scheduled pancreaticoduodenectomy. 
Your post-operative course was complicated by a urinary tract 
infection and bacteria ___ your blood stream for which you 
recieved antibiotics. You recovered well, ambulated without 
issues, and were tolerating a regular diet. You are now ready to 
continue your recovery at a rehabilitation center with the 
following instructions. 

Post-op recovery: 
*Please do not lift more than 10lbs for the next 6 weeks. 
*It is normal to feel tired post-operatively, please continue 
activity as tolerated. 

Incisions: 
*Your dressing will be changed daily by ___ nurses.
*You may shower, please pat incision dry
*Please change the packing, dry dressing, every day or twice a 
day depending on drainage. 
*Please do not remove ___, they will come off on their 
own. 
*Please monitor for any redness or increasing drainage 

Antibiotics: 
You will continue on IV antibiotics until ___. Please 
follow the instruction for port-a-cath care. 
 

___ drain care: 
*Keep bulb to suction.
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*If the drain is connected to a collection container, please 
note color, consistency, and amount of fluid ___ the drain.  Call 
the doctor, ___, or ___ nurse if the amount 
increases significantly or changes ___ character. Be sure to 
empty the drain frequently.  Record the output, if instructed to 
do so.
*Wash the area gently with warm, soapy water or ___ strength 
hydrogen peroxide followed by saline rinse, pat dry, and place a 
drain sponge. Change daily and as needed.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself ___ 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.

Activity: 
*You may resume activity as tolerated

Pain control: 
*Please take pain medications as prescribed. 
*You maytake tylenol and ibuprofen as needed
*Please do not operate heavy machinery while on narcotics. 

Please call the clinic or return to the ED if you experience the 
following: 
*fevers, chills
*nausea, vomiting
*redness or drainage from incision

Thank you, 
Your ___ Surgery Team
 
Followup Instructions:
___